US05504253
To a 50 liter flask was added diethyl o-chlorobenzylmalonate (6067 g, 21.31 mol), glacial acetic acid (1090 mL), and concentrated hydrochloric acid (16,000 mL). The reaction was then heated at reflux for 21 hours and 13 minutes. Additional concentrated hydrochloric acid (1840 mL, 5520 mL total) was added at 3.5, 13.5, and 17 hours into the reflux. The reaction was cooled to 0°±2° C. and the resulting solid was collected by suction filtration and washed with water (4 L). The solid was suspended in water (8 L) and the slurry was stirred for five minutes. The solid was collected by suction filtration and washed with water (20 L). The filtrate was pH 2 and tested positive for chlorine. The solid was then washed seven times in the following manner; the solid was suspended in water (8 L) and stirred for approximately ten minutes. The solid was collected by suction filtration and washed with water (4 L). The filtrate was tested for chloride ion and the pH was recorded. The final filtrate was pH 4.5-5 and tested negative to the presence of chloride ion. A total of 100 liters of water was used to wash the solid. The solid was dried under vacuum at 35±3° C. for 70 hours to give crude β-2-chlorophenylpropionic acid (3653 g, 93.4%) as a white solid.

reactant | diethyl o-chlorobenzylmalonate | 21.31 mol, 6067 g | ClC1=C(CC(C(=O)OCC)C(=O)OCC)C=CC=C1 | C14H17ClO4
reactant | hydrochloric acid | 16,000 mL | Cl | ClH
reactant | hydrochloric acid | 1840 mL | Cl | ClH
solvent | acetic acid | 1090 mL | C(C)(=O)O | C2H4O2
product | β-2-chlorophenylpropionic acid | 3653 g, 93.4% | ClC1=C(C=CC=C1)CCC(=O)O | C9H9ClO2
